US07071201B2
1-(4-Fluorophenethyl)-4-(6-methoxyisatin-1-yl)homopiperidine (0.4 g) was dissolved in tetrahydrofuran (1.0 ml). Under nitrogen atmosphere, a 2.0 M solution (4.0 ml) of borane-tetrahydrofuran complex in tetrahydrofuran was added dropwise thereinto in a water bath followed by heating under reflux for 3 hr. The reaction solution was ice cooled and water was added thereto. Next, the reaction solution was partitioned between water and ethyl acetate and the organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in pyridine (5.0 ml) and stirred at room temperature for 11 hr. After adding water, the reaction solution was partitioned between water and ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Then the resulting residue was purified by NH-silica gel column chromatography (hexane/ethyl acetate system) to give 1-(4-florophenethyl)-4-(6-methoxyindol-1-yl)homopiperidine as a yellow oil. Then this product was treated as in Production Example 64 to give the free title compound (0.095g) asayellowoil (yield: 27.2%).

reactant | 1-(4-Fluorophenethyl)-4-(6-methoxyisatin-1-yl)homopiperidine | 0.4 g | FC1=CC=C(CCN2CCC(CCC2)N2C(=O)C(=O)C3=CC=C(C=C23)OC)C=C1 | C23H25FN2O3
reactant | water | O | H2O
solvent | tetrahydrofuran | 1.0 ml | O1CCCC1 | C4H8O
product | 1-(4-florophenethyl)-4-(6-methoxyindol-1-yl)homopiperidine | FC1=CC=C(CCN2CCC(CCC2)N2C=CC3=CC=C(C=C23)OC)C=C1 | C23H27FN2O
